US04225315
1-(2',6'-dimethylphenyl)-4-methoxyamino-1,2-dihydro-1,3,5-triazin-2-one hydrate
To a suspension of 10.9 g. (40.0 mmol) of 1-(2',6'-dimethylphenyl)-3-methoxyamidinourea in CH3CN (50 ml.) is added 9.5 g. (80.0 mmol) of DMF-DMA and the mixture heated at 105°-110° C. in a closed bomb for 1-1/2 hours. The reaction mixture is cooled and poured into a round bottom flask and the CH3CN removed under reduced pressure. The residue is partitioned between CHCl3 and H2O and the layer separated. The aqueous layer is extracted with CHCl3 (1×75 ml.). The combined organic layers are washed with H2O (1×50 ml.), dried (MgSO4) and concentrated under reduced pressure to give an oily residue. The residue is taken up in Et2O and washed with H2O (2×50 ml.). The Et2O layer is dried (MgSO4) and concentrated under reduced pressure to give a viscous oil. NMR shows that DMF has been removed. The oil is taken up in hot CH3CN cooled and a small amount of CHCl3, H2O and DMSO insoluble material filtered off. The filtrate is concentrated to give a viscous oil. TLC of the oil (Silicagel; 3% NH4OH, iPA) versus starting material shows one spot moves slower than starting material. Upon addition of MEOH and warming on a steam bath the oil solidifies. The solid is crystallized from MeOH to give 4.6 g. (43%) of 1-(2',6'-dimethylphenyl)-4-methoxyamino-1,2-dihydro-1,3,5-triazin-2-one as a white solid, melting point 78°-80° C.

reactant | 1-(2',6'-dimethylphenyl)-3-methoxyamidinourea | 40.0 mmol | CC1=C(C(=CC=C1)C)NC(=O)NC(NOC)=N | C11H16N4O2
reactant | DMF-DMA | 80.0 mmol | CN(C)C(OC)OC | C5H13NO2
reactant | NH4OH | [NH4+].[OH-]
reactant | 1-(2',6'-dimethylphenyl)-4-methoxyamino-1,2-dihydro-1,3,5-triazin-2-one | CC1=C(C(=CC=C1)C)N1C(N=C(N=C1)NOC)=O | C12H14N4O2
solvent | CH3CN | 50 ml | CC#N | C2H3N
solvent | Et2O | CCOCC | C4H10O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2',6'-dimethylphenyl)-4-methoxyamino-1,2-dihydro-1,3,5-triazin-2-one hydrate | O.CC1=C(C(=CC=C1)C)N1C(N=C(N=C1)NOC)=O | InChI=1S/C12H14N4O2.H2O/c1-8-5-4-6-9(2)10(8)16-7-13-11(15-18-3)14-12(16)17;/h4-7H,1-3H3,(H,14,15,17);1H2
